US08703797B2
N-(3,5-Dichlorophenyl)-2-(4-isopropylquinolin-2-yl)hydrazinecarboxamide:
A solution of 2-hydrazinyl-4-isopropylquinoline (97 mg, 0.48 mmol) and 91 mg (1.0 eq) of 3,5-dichlorophenyl isocyanate was reacted as outlined in Scheme 1 above to give the desired title compound.

reactant | 2-hydrazinyl-4-isopropylquinoline | 0.48 mmol, 97 mg | N(N)C1=NC2=CC=CC=C2C(=C1)C(C)C | C12H15N3
reactant | 3,5-dichlorophenyl isocyanate | 91 mg, 1.0 eq | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
product | N-(3,5-Dichlorophenyl)-2-(4-isopropylquinolin-2-yl)hydrazinecarboxamide | ClC=1C=C(C=C(C1)Cl)NC(=O)NNC1=NC2=CC=CC=C2C(=C1)C(C)C | C19H18Cl2N4O
